US05569653
(A) 1-(2-Chloroacetyl)-4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine
A solution of 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine (4.4 g, 20 mmol), triethylamine (2.1 g, 21 mmol) in chloroform (50 ml) was added to a solution of chloroacetyl chloride (2.5 g, 22 mmol) in chloroform (100 ml) dropwise at room temperature. The mixture was stirred for 2 hours. The solution was diluted with dichloromethane (DCM, 100 ml) and then washed with H2O and brine. The solvent was removed and the oily product was purified by flash chromatography (SiO2, 50 g; eluted with DCM and 1% CH3OH in DCM). The pure product was obtained as an oil, 4.2 g. Crystallization from ethanol yielded 2.2 g of white crystals, m.p. 101°-102° C.

reactant | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine | 20 mmol, 4.4 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | triethylamine | 21 mmol, 2.1 g | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 22 mmol, 2.5 g | ClCC(=O)Cl | C2H2Cl2O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-(2-Chloroacetyl)-4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine | 2.2 g | ClCC(=O)N1CCC(CC1)C1=NOC2=C1C=CC(=C2)F | C14H14ClFN2O2
